US05885999
c) N-[(4-Phenylpiperidin-4-yl)methyl]methanesulfonamide Hydrochloride
Methanolic hydrogen chloride (4M, 40 mL) was added to a stirred, cooled (0° C.) suspension of N-[(1-t-butoxycarbonyl-4-phenylpiperidin-4-yl)methyl]methanesulfonamide (5.65 g, 15.4 mmol) in methanol (20 mL) and the mixture was stirred at room temperature for 20 h. The solvent was evaporated under reduced pressure to give the title compound as a tan solid (4.66 g, 100%), δH (250 MHz, d6 -DMSO) 9.05 (1H, br s), 8.86 (1H, br s), 7.41-7.26 (5H, m), 6.95 (1H, t, J 6.9 Hz), 3.18 (2H, m), 3.05 (2H, d, J 6.9 Hz), 2.70 (2H, m), 2.64 (3H, s), 2.26 (2H, m), and 2.02 (2H, m).

reactant | hydrogen chloride | 4M, 40 mL | Cl | ClH
reactant | N-[(1-t-butoxycarbonyl-4-phenylpiperidin-4-yl)methyl]methanesulfonamide | 15.4 mmol, 5.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)CNS(=O)(=O)C | C18H28N2O4S
solvent | methanol | 20 mL | CO | CH4O
product | N-[(4-Phenylpiperidin-4-yl)methyl]methanesulfonamide Hydrochloride | 4.66 g, 100% | Cl.C1(=CC=CC=C1)C1(CCNCC1)CNS(=O)(=O)C | InChI=1S/C13H20N2O2S.ClH/c1-18(16,17)15-11-13(7-9-14-10-8-13)12-5-3-2-4-6-12;/h2-6,14-15H,7-11H2,1H3;1H
